CMOS Common-Source Amplifier
* Single-stage CMOS amplifier
M1 out in vdd vdd pmos W=50u L=2u
M2 out bias 0 0 nmos W=25u L=2u
VDD vdd 0 DC 5V
VIN in 0 DC 2.5V AC 0.1V
VBIAS bias 0 DC 1.5V
RL out vdd 10k
.end